US07807671B2
To (4-(6-chloro-3-phenylpyridazin-4-yl)piperazin-1-yl)(phenyl)methanone (1 g) dissolved in methanol (40 ml), and palladium carbon (10 mol %) was added very slowly under nitrogen atmosphere and the reaction mixture was stirred under hydrogen atmosphere (1 kg pressure) for 3 hrs. The progress of reaction was monitored by TLC. After consumption of starting material, the reaction mixture was filtered through celite, washed with methanol and the filtrate was concentrated under reduced pressure to get phenyl(4-(3-phenylpyridazin-4-yl)piperazin-1-yl)methanone as white solid.

reactant | (4-(6-chloro-3-phenylpyridazin-4-yl)piperazin-1-yl)(phenyl)methanone | 1 g | ClC1=CC(=C(N=N1)C1=CC=CC=C1)N1CCN(CC1)C(=O)C1=CC=CC=C1 | C21H19ClN4O
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium carbon | [C].[Pd]
product | phenyl(4-(3-phenylpyridazin-4-yl)piperazin-1-yl)methanone | C1(=CC=CC=C1)C(=O)N1CCN(CC1)C1=C(N=NC=C1)C1=CC=CC=C1 | C21H20N4O
